US05599852
LIQUID POLYMERS OF ε-CAPROLACTONE/p-DIOXANONE AT 50/50 INITIAL MOLE COMPOSITION
A flame dried, 250 mL, round bottom single neck flask was charged with 57.1 grams (0.50 mole) of ε-caprolactone, 51.0 grams (0.50 mole) of p-dioxanone, 4.00 mL (55 mmol) of distilled glycerol, and 0.12 mL (40 μmol) of a 0.33M stannous octoate solution in toluene. The flask was fitted with a flame dried mechanical stirrer. The flask was purged with nitrogen three times before venting with nitrogen. The reaction mixture was heated to 140° C. and maintained at this temperature for about 24 hours. The reaction mixture was then cooled to 110° C. and maintained at this temperature for 24 hours. The copolymer was dried under vacuum (0.1 mm Hg) at 80° C. for about 32 hours to remove any unreacted monomer. The copolymer had an inherent viscosity of 0.14 dL/g in HFIP at 25° C. The copolymer was a liquid at room temperature. The molar ratio of PCL/PDS was found to be 53.2/46.8 by proton NMR.

reactant | ε-caprolactone | 0.50 mole, 57.1 grams | C1(CCCCCO1)=O | C6H10O2
reactant | p-dioxanone | 0.50 mole, 51.0 grams | O1C(COCC1)=O | C4H6O3
reactant | glycerol | 55 mmol, 4.00 mL | OCC(O)CO | C3H8O3
reactant | stannous octoate | 0.33M | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ε-CAPROLACTONE p-DIOXANONE | C1(CCCCCO1)=O.O1C(COCC1)=O | InChI=1S/C6H10O2.C4H6O3/c7-6-4-2-1-3-5-8-6;5-4-3-6-1-2-7-4/h1-5H2;1-3H2
